US09351965B2
Preparation of methyl 1-(4-fluorobenzyl)-3-(3-(2-methylpyridin-4-yl)-1H-indazole-5-carboxamido)cyclohexanecarboxylate
In a flask, methyl 1-(4-fluorobenzyl)-3-(3-(2-methylpyridin-4-yl)-1-trityl-1H-indazole-5-carboxamido)cyclohexanecarboxylate (230 mg, 0.31 mmol) was reacted with trifluoroacetic acid (3 mL) for 1 hour. After reaction completion triethylsilane (0.1 mL) was added, and the reaction was stirred for an additional 15 minutes. The reaction was concentrated and rinsed with diethyl ether. The crude product was progressed to the next step without further purification.

reactant | methyl 1-(4-fluorobenzyl)-3-(3-(2-methylpyridin-4-yl)-1-trityl-1H-indazole-5-carboxamido)cyclohexanecarboxylate | 0.31 mmol, 230 mg | FC1=CC=C(CC2(CC(CCC2)NC(=O)C=2C=C3C(=NN(C3=CC2)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C2=CC(=NC=C2)C)C(=O)OC)C=C1 | C48H43FN4O3
reactant | trifluoroacetic acid | 3 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | triethylsilane | 0.1 mL | C(C)[SiH](CC)CC | C6H16Si
product | methyl 1-(4-fluorobenzyl)-3-(3-(2-methylpyridin-4-yl)-1H-indazole-5-carboxamido)cyclohexanecarboxylate | FC1=CC=C(CC2(CC(CCC2)NC(=O)C=2C=C3C(=NNC3=CC2)C2=CC(=NC=C2)C)C(=O)OC)C=C1 | C29H29FN4O3
